US04703126
7-Ethyl indole
The reactor for the dehydrocyclization contained 0.5 liter of Cu-chromite/BaO catalyst in table form (4×4 mm). The reactor was heated to 660° C. and was fed 68 g of 2,6-diethylaniline and 81 g of water per hour. After cooling, a mixture of a heavily organic phase and of a lighter water phase, as well as a waste (discharge) gas, was obtained in the recipient vessel. The waste gas had the following typical composition (vol. percent): 80.0 percent of hydrogen; 2.9 percent of methane; 2.0 percent of ethane; 0.4 percent of ethylene; 2.0 percent of carbon monoxide; and 10.7 percent of carbon dioxide. Obtained per hour were 38 l of waste gas, 59 g of organic raw product and 76 g of water which can be used again. The organic raw product had the following composition:

reactant | 2,6-diethylaniline | 68 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | hydrogen | [H][H] | H2
reactant | methane | C | CH4
reactant | ethane | CC | C2H6
reactant | ethylene | C=C | C2H4
reactant | carbon monoxide | [C]=O | CO
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 76 g | O | H2O
solvent | water | 81 g | O | H2O
product | 7-Ethyl indole | C(C)C=1C=CC=C2C=CNC12 | C10H11N
